US06211215B1
In substantially the same manner as in Working Example 72, 1-[4-(4-hydroxyphenyl)butyl]imidazole was allowed to react with 4-chloromethyl-2-phenylthiazole to give 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-phenylthiazole. The yield was 91%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 93-94° C.

reactant | 1-[4-(4-hydroxyphenyl)butyl]imidazole | OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C13H16N2O
reactant | 4-chloromethyl-2-phenylthiazole | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
product | 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-phenylthiazole | yield was 91% | N1(C=NC=C1)CCCCC1=CC=C(OCC=2N=C(SC2)C2=CC=CC=C2)C=C1 | C23H23N3OS
